*** SPICE deck for cell dff_16{lay} from library pixel
*** Created on mar ene 28, 2020 00:10:28
*** Last revised on mar ene 28, 2020 01:10:43
*** Written on mar ene 28, 2020 01:10:48 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF
***    P-Active:	areacap=0.9FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    N-Active:	areacap=0.9FF/um^2,	edgecap=0.0FF/um,	res=3.0ohms/sq
***    Polysilicon-1:	areacap=0.1467FF/um^2,	edgecap=0.0608FF/um,	res=6.2ohms/sq
***    Polysilicon-2:	areacap=1.0FF/um^2,	edgecap=0.0FF/um,	res=50.0ohms/sq
***    Transistor-Poly:	areacap=0.09FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    Poly-Cut:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=2.2ohms/sq
***    Active-Cut:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    Metal-1:	areacap=0.1209FF/um^2,	edgecap=0.1104FF/um,	res=0.078ohms/sq
***    Via1:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=1.0ohms/sq
***    Metal-2:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via2:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.9ohms/sq
***    Metal-3:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via3:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-4:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via4:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-5:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via5:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-6:	areacap=0.0423FF/um^2,	edgecap=0.1273FF/um,	res=0.036ohms/sq
***    Hi-Res:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=1.0ohms/sq

*** SUBCIRCUIT pixel__dff2 FROM CELL dff2{lay}
.SUBCKT pixel__dff2 clk clkb D gnd Q rst vdd
Mnmos@14 net@130 clk#0nmos@14_poly-right D gnd NMOS L=0.6U W=1.8U AS=4.455P AD=4.455P PS=8.7U PD=8.7U
Mnmos@16 gnd net@130#7nmos@16_poly-right net@284 gnd NMOS L=0.6U W=1.8U AS=2.43P AD=8.07P PS=4.5U PD=14.7U
Mnmos@19 net@284 clkb#3nmos@19_poly-right net@348 gnd NMOS L=0.6U W=1.8U AS=3.81P AD=2.43P PS=8U PD=4.5U
Mnmos@20 Q net@348#8nmos@20_poly-right gnd gnd NMOS L=0.6U W=1.8U AS=8.07P AD=2.43P PS=14.7U PD=4.5U
Mnmos@21 gnd net@348#10pin@233_polysilicon-1 Q gnd NMOS L=0.6U W=1.8U AS=2.43P AD=8.07P PS=4.5U PD=14.7U
Mpmos@14 net@130 clkb#0pmos@14_poly-left D vdd PMOS L=0.6U W=3.6U AS=4.455P AD=4.455P PS=8.7U PD=8.7U
Mpmos@16 vdd net@130#4pmos@16_poly-left net@284 vdd PMOS L=0.6U W=3.6U AS=2.43P AD=7.672P PS=4.5U PD=12.975U
Mpmos@18 net@284 clk#2pin@128_polysilicon-1 net@348 vdd PMOS L=0.6U W=3.6U AS=3.81P AD=2.43P PS=8U PD=4.5U
Mpmos@31 Q net@348#6pin@229_polysilicon-1 vdd vdd PMOS L=0.6U W=3.6U AS=7.672P AD=2.43P PS=12.975U PD=4.5U
Mpmos@32 vdd net@348#4pin@230_polysilicon-1 Q vdd PMOS L=0.6U W=3.6U AS=2.43P AD=7.672P PS=4.5U PD=12.975U
Mpmos@33 net@348 rst#2pmos@33_poly-left vdd vdd PMOS L=0.6U W=0.9U AS=7.672P AD=3.81P PS=12.975U PD=8U
** Extracted Parasitic Capacitors ***
C0 net@130 0 7.474fF
C1 D 0 6.257fF
C2 net@284 0 4.061fF
C3 net@348 0 10.421fF
C4 Q 0 6.147fF
C5 rst 0 0.224fF
C6 clkb 0 0.151fF
C7 clk 0 0.268fF
C8 clk#0nmos@14_poly-right 0 0.134fF
C9 net@130#7nmos@16_poly-right 0 0.166fF
C10 clkb#3nmos@19_poly-right 0 0.165fF
C11 net@348#10pin@233_polysilicon-1 0 0.102fF
C12 clkb#0pmos@14_poly-left 0 0.178fF
C13 clkb#2pin@124_polysilicon-1 0 0.31fF
C14 clk#2pin@128_polysilicon-1 0 0.24fF
C15 net@130#5pin@145_polysilicon-1 0 0.168fF
C16 net@348#4pin@230_polysilicon-1 0 0.102fF
C17 net@348#12pin@234_polysilicon-1 0 0.301fF
C18 net@348#13pin@235_polysilicon-1 0 0.281fF
C19 rst#1pin@244_polysilicon-1 0 0.282fF
C20 clk#4pin@249_polysilicon-1 0 0.308fF
C21 clk#5pin@250_polysilicon-1 0 0.322fF
C22 clkb#4pin@252_polysilicon-1 0 0.411fF
C23 clk#6pin@266_polysilicon-1 0 0.498fF
C24 rst#2pmos@33_poly-left 0 0.102fF
** Extracted Parasitic Resistors ***
R0 net@130#4pmos@16_poly-left net@130#4pmos@16_poly-left##0 5.425
R1 net@130#4pmos@16_poly-left##0 net@130#5pin@145_polysilicon-1 5.425
R2 net@130#5pin@145_polysilicon-1 net@130 9.3
R3 net@348#6pin@229_polysilicon-1 net@348#12pin@234_polysilicon-1 4.65
R4 net@348#12pin@234_polysilicon-1 net@348#12pin@234_polysilicon-1##0 6.717
C25 net@348#12pin@234_polysilicon-1##0 0 0.102fF
R5 net@348#12pin@234_polysilicon-1##0 net@348#12pin@234_polysilicon-1##1 6.717
C26 net@348#12pin@234_polysilicon-1##1 0 0.102fF
R6 net@348#12pin@234_polysilicon-1##1 net@348#4pin@230_polysilicon-1 6.717
R7 net@348#8nmos@20_poly-right net@348#13pin@235_polysilicon-1 4.65
R8 net@348#13pin@235_polysilicon-1 net@348#13pin@235_polysilicon-1##0 6.717
C27 net@348#13pin@235_polysilicon-1##0 0 0.102fF
R9 net@348#13pin@235_polysilicon-1##0 net@348#13pin@235_polysilicon-1##1 6.717
C28 net@348#13pin@235_polysilicon-1##1 0 0.102fF
R10 net@348#13pin@235_polysilicon-1##1 net@348#10pin@233_polysilicon-1 6.717
R11 net@348#12pin@234_polysilicon-1 net@348#12pin@234_polysilicon-1##0 8.99
C29 net@348#12pin@234_polysilicon-1##0 0 0.152fF
R12 net@348#12pin@234_polysilicon-1##0 net@348#12pin@234_polysilicon-1##1 8.99
C30 net@348#12pin@234_polysilicon-1##1 0 0.152fF
R13 net@348#12pin@234_polysilicon-1##1 net@348#12pin@234_polysilicon-1##2 8.99
C31 net@348#12pin@234_polysilicon-1##2 0 0.152fF
R14 net@348#12pin@234_polysilicon-1##2 net@348#12pin@234_polysilicon-1##3 8.99
C32 net@348#12pin@234_polysilicon-1##3 0 0.152fF
R15 net@348#12pin@234_polysilicon-1##3 net@348 8.99
R16 net@348 net@348##0 8.138
C33 net@348##0 0 0.132fF
R17 net@348##0 net@348##1 8.138
C34 net@348##1 0 0.132fF
R18 net@348##1 net@348##2 8.138
C35 net@348##2 0 0.132fF
R19 net@348##2 net@348#13pin@235_polysilicon-1 8.138
R20 rst rst#1pin@244_polysilicon-1 4.34
R21 rst#1pin@244_polysilicon-1 rst#1pin@244_polysilicon-1##0 6.717
C36 rst#1pin@244_polysilicon-1##0 0 0.102fF
R22 rst#1pin@244_polysilicon-1##0 rst#1pin@244_polysilicon-1##1 6.717
C37 rst#1pin@244_polysilicon-1##1 0 0.102fF
R23 rst#1pin@244_polysilicon-1##1 rst#2pmos@33_poly-left 6.717
R24 clkb#2pin@124_polysilicon-1 clkb#2pin@124_polysilicon-1##0 9.3
C38 clkb#2pin@124_polysilicon-1##0 0 0.165fF
R25 clkb#2pin@124_polysilicon-1##0 clkb#2pin@124_polysilicon-1##1 9.3
C39 clkb#2pin@124_polysilicon-1##1 0 0.165fF
R26 clkb#2pin@124_polysilicon-1##1 clkb#2pin@124_polysilicon-1##2 9.3
C40 clkb#2pin@124_polysilicon-1##2 0 0.165fF
R27 clkb#2pin@124_polysilicon-1##2 clkb#2pin@124_polysilicon-1##3 9.3
C41 clkb#2pin@124_polysilicon-1##3 0 0.165fF
R28 clkb#2pin@124_polysilicon-1##3 clkb#2pin@124_polysilicon-1##4 9.3
C42 clkb#2pin@124_polysilicon-1##4 0 0.165fF
R29 clkb#2pin@124_polysilicon-1##4 clkb#2pin@124_polysilicon-1##5 9.3
C43 clkb#2pin@124_polysilicon-1##5 0 0.165fF
R30 clkb#2pin@124_polysilicon-1##5 clkb#3nmos@19_poly-right 9.3
R31 net@130 net@130##0 9.558
C44 net@130##0 0 0.166fF
R32 net@130##0 net@130##1 9.558
C45 net@130##1 0 0.166fF
R33 net@130##1 net@130##2 9.558
C46 net@130##2 0 0.166fF
R34 net@130##2 net@130##3 9.558
C47 net@130##3 0 0.166fF
R35 net@130##3 net@130##4 9.558
C48 net@130##4 0 0.166fF
R36 net@130##4 net@130#7nmos@16_poly-right 9.558
R37 clk#0nmos@14_poly-right clk#0nmos@14_poly-right##0 8.783
C49 clk#0nmos@14_poly-right##0 0 0.134fF
R38 clk#0nmos@14_poly-right##0 clk#0nmos@14_poly-right##1 8.783
C50 clk#0nmos@14_poly-right##1 0 0.134fF
R39 clk#0nmos@14_poly-right##1 clk#4pin@249_polysilicon-1 8.783
R40 clk#5pin@250_polysilicon-1 clk#5pin@250_polysilicon-1##0 9.61
C51 clk#5pin@250_polysilicon-1##0 0 0.177fF
R41 clk#5pin@250_polysilicon-1##0 clk#5pin@250_polysilicon-1##1 9.61
C52 clk#5pin@250_polysilicon-1##1 0 0.177fF
R42 clk#5pin@250_polysilicon-1##1 clk#5pin@250_polysilicon-1##2 9.61
C53 clk#5pin@250_polysilicon-1##2 0 0.177fF
R43 clk#5pin@250_polysilicon-1##2 clk#5pin@250_polysilicon-1##3 9.61
C54 clk#5pin@250_polysilicon-1##3 0 0.177fF
R44 clk#5pin@250_polysilicon-1##3 clk#5pin@250_polysilicon-1##4 9.61
C55 clk#5pin@250_polysilicon-1##4 0 0.177fF
R45 clk#5pin@250_polysilicon-1##4 clk#5pin@250_polysilicon-1##5 9.61
C56 clk#5pin@250_polysilicon-1##5 0 0.177fF
R46 clk#5pin@250_polysilicon-1##5 clk#5pin@250_polysilicon-1##6 9.61
C57 clk#5pin@250_polysilicon-1##6 0 0.177fF
R47 clk#5pin@250_polysilicon-1##6 clk#5pin@250_polysilicon-1##7 9.61
C58 clk#5pin@250_polysilicon-1##7 0 0.177fF
R48 clk#5pin@250_polysilicon-1##7 clk#5pin@250_polysilicon-1##8 9.61
C59 clk#5pin@250_polysilicon-1##8 0 0.177fF
R49 clk#5pin@250_polysilicon-1##8 clk#2pin@128_polysilicon-1 9.61
R50 clkb#0pmos@14_poly-left clkb#0pmos@14_poly-left##0 8.525
C60 clkb#0pmos@14_poly-left##0 0 0.115fF
R51 clkb#0pmos@14_poly-left##0 clkb#4pin@252_polysilicon-1 8.525
R52 clkb#4pin@252_polysilicon-1 clkb#4pin@252_polysilicon-1##0 8.913
C61 clkb#4pin@252_polysilicon-1##0 0 0.145fF
R53 clkb#4pin@252_polysilicon-1##0 clkb#4pin@252_polysilicon-1##1 8.913
C62 clkb#4pin@252_polysilicon-1##1 0 0.145fF
R54 clkb#4pin@252_polysilicon-1##1 clkb#4pin@252_polysilicon-1##2 8.913
C63 clkb#4pin@252_polysilicon-1##2 0 0.145fF
R55 clkb#4pin@252_polysilicon-1##2 clkb#2pin@124_polysilicon-1 8.913
R56 clkb#4pin@252_polysilicon-1 clkb#4pin@252_polysilicon-1##0 9.3
C64 clkb#4pin@252_polysilicon-1##0 0 0.151fF
R57 clkb#4pin@252_polysilicon-1##0 clkb#4pin@252_polysilicon-1##1 9.3
C65 clkb#4pin@252_polysilicon-1##1 0 0.151fF
R58 clkb#4pin@252_polysilicon-1##1 clkb#4pin@252_polysilicon-1##2 9.3
C66 clkb#4pin@252_polysilicon-1##2 0 0.151fF
R59 clkb#4pin@252_polysilicon-1##2 clkb 9.3
R60 clk#5pin@250_polysilicon-1 clk#5pin@250_polysilicon-1##0 8.913
C67 clk#5pin@250_polysilicon-1##0 0 0.145fF
R61 clk#5pin@250_polysilicon-1##0 clk#5pin@250_polysilicon-1##1 8.913
C68 clk#5pin@250_polysilicon-1##1 0 0.145fF
R62 clk#5pin@250_polysilicon-1##1 clk#5pin@250_polysilicon-1##2 8.913
C69 clk#5pin@250_polysilicon-1##2 0 0.145fF
R63 clk#5pin@250_polysilicon-1##2 clk#6pin@266_polysilicon-1 8.913
R64 clk#6pin@266_polysilicon-1 clk#6pin@266_polysilicon-1##0 9.455
C70 clk#6pin@266_polysilicon-1##0 0 0.174fF
R65 clk#6pin@266_polysilicon-1##0 clk#6pin@266_polysilicon-1##1 9.455
C71 clk#6pin@266_polysilicon-1##1 0 0.174fF
R66 clk#6pin@266_polysilicon-1##1 clk#6pin@266_polysilicon-1##2 9.455
C72 clk#6pin@266_polysilicon-1##2 0 0.174fF
R67 clk#6pin@266_polysilicon-1##2 clk#6pin@266_polysilicon-1##3 9.455
C73 clk#6pin@266_polysilicon-1##3 0 0.174fF
R68 clk#6pin@266_polysilicon-1##3 clk#6pin@266_polysilicon-1##4 9.455
C74 clk#6pin@266_polysilicon-1##4 0 0.174fF
R69 clk#6pin@266_polysilicon-1##4 clk#6pin@266_polysilicon-1##5 9.455
C75 clk#6pin@266_polysilicon-1##5 0 0.174fF
R70 clk#6pin@266_polysilicon-1##5 clk#6pin@266_polysilicon-1##6 9.455
C76 clk#6pin@266_polysilicon-1##6 0 0.174fF
R71 clk#6pin@266_polysilicon-1##6 clk#6pin@266_polysilicon-1##7 9.455
C77 clk#6pin@266_polysilicon-1##7 0 0.174fF
R72 clk#6pin@266_polysilicon-1##7 clk#6pin@266_polysilicon-1##8 9.455
C78 clk#6pin@266_polysilicon-1##8 0 0.174fF
R73 clk#6pin@266_polysilicon-1##8 clk#4pin@249_polysilicon-1 9.455
R74 clk clk#6pin@266_polysilicon-1 4.34
.ENDS pixel__dff2

*** SUBCIRCUIT pixel__dff_4 FROM CELL dff_4{lay}
.SUBCKT pixel__dff_4 clk_reset clk_select clkb_reset clkb_select D_reset D_select gnd reset_0 reset_1 rst_reset rst_select select_0 select_1 vdd
Xdff2@0 clk_select clkb_select D_select gnd select_0#0dff2@0_Q rst_select vdd pixel__dff2
Xdff2@1 clk_select clkb_select select_0#0dff2@0_Q gnd select_1 rst_select vdd pixel__dff2
Xdff2@2 clk_reset clkb_reset D_reset gnd reset_0 rst_reset vdd pixel__dff2
Xdff2@3 clk_reset clkb_reset reset_0 gnd reset_1 rst_reset vdd pixel__dff2
** Extracted Parasitic Capacitors ***
C0 select_0#0dff2@0_Q 0 15.056fF
C1 reset_1 0 0.622fF
C2 D_select 0 5.872fF
C3 clk_select 0 6.482fF
C4 clkb_select 0 7.589fF
C5 rst_select 0 7.589fF
C6 select_1 0 21.788fF
C7 D_reset 0 5.324fF
C8 reset_0 0 11.415fF
C9 clk_reset 0 6.393fF
C10 clkb_reset 0 7.485fF
C11 rst_reset 0 7.485fF
C12 select_0 0 10.61fF
** Extracted Parasitic Resistors ***
R0 select_0#0dff2@0_Q select_0 4.661
.ENDS pixel__dff_4

*** TOP LEVEL CELL: dff_16{lay}
Xdff_4@0 clk_reset clk_select clkb_reset clkb_select reset_5 select_5 gnd reset_6 reset_7 rst_reset rst_select select_6 select_7 vdd pixel__dff_4
Xdff_4@1 clk_reset clk_select clkb_reset clkb_select reset_3 select_3 gnd reset_4 reset_5 rst_reset rst_select select_4 select_5 vdd pixel__dff_4
Xdff_4@2 clk_reset clk_select clkb_reset clkb_select reset_1 select_1 gnd reset_2 reset_3 rst_reset rst_select select_2 select_3 vdd pixel__dff_4
Xdff_4@3 clk_reset clk_select clkb_reset clkb_select D_reset D_select gnd reset_0 reset_1 rst_reset rst_select select_0 select_1 vdd pixel__dff_4
** Extracted Parasitic Capacitors ***
C0 reset_1 0 28.732fF
C1 reset_3 0 28.784fF
C2 reset_5 0 28.784fF
C3 select_5 0 24.368fF
C4 clk_reset 0 31.5fF
C5 clk_select 0 31.449fF
C6 clkb_reset 0 31.5fF
C7 clkb_select 0 31.449fF
C8 rst_reset 0 31.5fF
C9 rst_select 0 31.449fF
C10 select_3 0 24.368fF
C11 select_1 0 24.368fF
** Extracted Parasitic Resistors ***

* Spice Code nodes in cell cell 'dff_16{lay}'
V1 clk_reset 0 PULSE(0 5 0 1p 1p 1u 2u 10)
V2 clkb_reset 0 PULSE(5 0 0 1p 1p 1u 2u 10)
V3 D_reset 0 PULSE(0 5 2u 1p 1p 2u 2u 1)
V4 Vdd 0 5
V5 rst_reset 0 PULSE(5 0 0 1p 1p 1u 1u 1)
.tran 20u
.include G:\Mi unidad\Universidad\Semestre Actual\CMOS Image Sensor\Layout\C5_models.txt
.END
